US06924278B2
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-chloro-2-butynyl]piperazine (1.2 g) and (3S)-3-ethoxycarbonylmorpholine hydrochloride (0.43 g), potassium carbonate (1.09 g) and a trace of potassium iodide in N,N-dimethylformamide (50 ml) was stirred at 55° C. for 12 hours. After cooling, the solvent was removed by evaporation, and ethyl acetate and water were added thereto. The organic layer was separated, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of ethyl acetate and n-hexane (2:3) as an eluent to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-ethoxycarbonylmorpholino)-2-butynyl]piperazine (0.29 g) as an oil.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-chloro-2-butynyl]piperazine | 1.2 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCCl)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C26H25ClF6N2O
reactant | (3S)-3-ethoxycarbonylmorpholine hydrochloride | 0.43 g | Cl.C(C)OC(=O)[C@H]1NCCOC1
reactant | potassium carbonate | 1.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-ethoxycarbonylmorpholino)-2-butynyl]piperazine | 0.29 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2[C@@H](COCC2)C(=O)OCC)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C33H37F6N3O4
